US08754100B2
Synthesis of (3-pyrrolidin-1-yl)phenyl methanol
Tetrabutylammonium fluoride (1.0 M solution in THF, 3.8 ml) was added to a solution of 1-[3-(tert-butyldimethylsilyloxymethyl)phenyl]pyrrolidine in THF (20 ml) and the mixture was stirred at room temperature for 3.5 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (557 mg).

reactant | Tetrabutylammonium fluoride | 1.0 M, 3.8 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-[3-(tert-butyldimethylsilyloxymethyl)phenyl]pyrrolidine | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1)N1CCCC1 | C17H29NOSi
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (3-pyrrolidin-1-yl)phenyl methanol | 557 mg | N1(CCCC1)C=1C=C(C=CC1)CO | C11H15NO
